US06251911B1
A mixture of 500 mg (1.34 mmol) of 3-(3aminomethyl-phenylamino)4-(3-chloro-phenylamino)-1H-pyrazolo[3,4-d]pyrimidine (water content: 1.79%), 402 mg (2.73 mmol) of N,N-dimethylformamide diethyl acetal and 5 ml of methanol is stirred at 30° C. for 2 hours and then concentrated by evaporation in vacuo. Crystallisation of the residue from ethyl acetate, filtration and washing the filter residue with ethyl acetate yield 4-(3-chloro-phenylamino)-3-[3-(dimethylamino-methyleneamino-methyl)-phenylamino]-1H-pyrazolo[3,4-d]pyrimidine having a water content of 1.68%; m.p. 175-177° C.; ESI-MS: (M+H)+=421.

reactant | 3-(3aminomethyl-phenylamino)4-(3-chloro-phenylamino)-1H-pyrazolo[3,4-d]pyrimidine | 1.34 mmol, 500 mg | NCC=1C=C(C=CC1)NC1=NNC2=NC=NC(=C21)NC2=CC(=CC=C2)Cl | C18H16ClN7
reactant | N,N-dimethylformamide diethyl acetal | 2.73 mmol, 402 mg | C(C)OC(N(C)C)OCC | C7H17NO2
reactant | methanol | 5 ml | CO | CH4O
product | 4-(3-chloro-phenylamino)-3-[3-(dimethylamino-methyleneamino-methyl)-phenylamino]-1H-pyrazolo[3,4-d]pyrimidine | ClC=1C=C(C=CC1)NC1=C2C(=NC=N1)NN=C2NC2=CC(=CC=C2)C(N=C)N(C)C | C21H21ClN8
